US05994378
Methansulfonyl chloride (0.13 ml) was added to the solution of methyl 3-hydroxy-2,2-dimethylpropionate (0.13 g) and triethylamine (0.28 ml) in dichloromethane over 20 minutes at -40° C. After 1 hour, the reaction mixture was allowed to warm to room temperature and concentrated under reduced pressure. The residue was partitioned between aqueous sodium hydrogen carbonate solution and ethyl acetate, and the ethyl acetate layer was washed with brine, dried over magnesium sulfate and evaporated under reduced pressure to give the corresponding mesylate (0.21 g). A mixture of 1-{[2-(4-tert-butylthiazol-2-yl]benzofuran-5-yl]methyl}-5-hydroxyindole-3-carbonitrile (0.35 g), the mesylate (0.21 g) and potassium carbonate (0.23 g) in N,N-dimethylformamide (5 ml) was stirred at 100° C. for 20 hours. After cooling, the reaction mixture was poured into water and made acidic with diluted hydrochloric acid. The resulting precipitates were collected by filtration and washed with water and subjected to column chromatography on silica gel and eluted with a mixture of ethyl acetate and toluene. The fractions containing the objective compounds were combined and concentrated under reduced pressure to give 1-{[2-(4-tert-butylthiazol-2-yl)benzofuran-5-yl]methyl}-5-(2-methoxycarbonyl-2-methylpropoxy)indole-3-carbonitrile (0.18 g).

reactant | 1-{[2-(4-tert-butylthiazol-2-yl]benzofuran-5-yl]methyl}-5-hydroxyindole-3-carbonitrile | 0.35 g | C(C)(C)(C)C=1N=C(SC1)C=1OC2=C(C1)C=C(C=C2)CN2C=C(C1=CC(=CC=C21)O)C#N | C25H21N3O2S
reactant | mesylate | 0.21 g | S(C)(=O)(=O)[O-]
reactant | potassium carbonate | 0.23 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
reactant | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1-{[2-(4-tert-butylthiazol-2-yl)benzofuran-5-yl]methyl}-5-(2-methoxycarbonyl-2-methylpropoxy)indole-3-carbonitrile | 0.18 g | C(C)(C)(C)C=1N=C(SC1)C=1OC2=C(C1)C=C(C=C2)CN2C=C(C1=CC(=CC=C21)OCC(C)(C)C(=O)OC)C#N | C31H31N3O4S
